US05969151
r) Methyl 3chloro-2-methylbenzoate
To a solution of 3-chloro-2-methylbenzoic acid (1.00 g, 5.86 mmol) in methanol (25 mL) was added 3 drops of sulfuric acid. The mixture was stirred at reflux for 18 h. After concentrating the residue was dissolved in ether, washed with 10% sodium hydroxide solution, brine and dried (Na2SO4). Removal of the solvent under reduced pressure gave 0.95 g (88%) of the title compound as a white solid: 1H NMR (250 MHz, CDCl3) d 7.62 (d, 1H), 7.41 (d, 1H), 7.05 (t, 1H), 3.82 (s, 3H), 2.55 (s, 3H).

reactant | 3-chloro-2-methylbenzoic acid | 5.86 mmol, 1.00 g | ClC=1C(=C(C(=O)O)C=CC1)C | C8H7ClO2
reactant | methanol | 25 mL | CO | CH4O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | Methyl 3chloro-2-methylbenzoate | 0.95 g, 88% | ClC=1C(=C(C(=O)OC)C=CC1)C | C9H9ClO2
